US04585789
To a suspension of sodium hydride (50%; 0.6 g) (deprived of mineral oil) in tetrahydrofuran (10 ml), there was added dropwise a solution of 5-phenyl-4-pentenol [1.66 g; known compound; cf. e.g. Journal of the Chemical Society, page 1863 (1961)] in tetrahydruforan (10 ml) in argon atmosphere at room temperature. The mixture was stirred at the same temperature for 5 minutes. A solution of benzyl bromide (1.93 g) in tetrahydrofuran (10 ml) was added dropwise and the mixture was stirred at the same temperature for 20 hours. The tetrahydrofuran was distilled off under reduced pressure and water was added to the residue, followed by extraction with ether. After washing with water and drying over magnesium sulfate, the solvent was distilled off, and the residue was subjected to silica gel chromatography, elution being carried out with chlorofrom to give 5-benzyloxy-1-phenyl-1-pentene (2.5 g) as a colorless oil.

reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | 5-phenyl-4-pentenol | C1(=CC=CC=C1)C=CCCCO | C11H14O
reactant | benzyl bromide | 1.93 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-benzyloxy-1-phenyl-1-pentene | 2.5 g | C(C1=CC=CC=C1)OCCCC=CC1=CC=CC=C1 | C18H20O
